US09062066B2
The Synthesis of 3-(tert-butyldimethylsilyloxy)aniline
Chloro t-butyldimethylsilane (11 g, 72.98 mmol), 3-aminophenol (6.64 g, 60.81 mmol) and imidazole (5.38 g, 79.10 mmol) were added into 200 ml of dichloromethane. The mixture was stirred at room temperature for 15 hours. The reaction mixture was extracted using 200 ml of saturated ammonium chloride and 200 m of dichloromethane and the organic layer was washed twice using 200 ml of water. After concentrated under vacuum, the title compound (13.5 g, 99%) was obtained.

reactant | Chloro t-butyldimethylsilane | 72.98 mmol, 11 g | Cl[Si](C)(C)C(C)(C)C | C6H15ClSi
reactant | 3-aminophenol | 60.81 mmol, 6.64 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | imidazole | 79.10 mmol, 5.38 g | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3-(tert-butyldimethylsilyloxy)aniline | 13.5 g, 99% | [Si](C)(C)(C(C)(C)C)OC=1C=C(N)C=CC1 | C12H21NOSi
